US04107309
5-(Methylthio)-imidazo[1,2-d]-as-triazine
A 66.7 gm. portion of imidazo[1,2-d]-as-triazine-5(6H)-thione is added to 250 ml. of ethanol. A solution of 10.1 gm. of sodium reacted in 250 ml. of ethanol is added with swirling. A 27.7 ml. portion of methyl iodide is added slowly with swirling. The mixture is stored in a chillroom overnight, filtered and dried giving 56.5 gm. of the desired final product, m.p. 147°-149° C.

reactant | imidazo[1,2-d]-as-triazine-5(6H)-thione | N=1C=CN2C(NN=CC21)=S | C5H4N4S
reactant | sodium | [Na] | Na
reactant | methyl iodide | CI | CH3I
solvent | ethanol | C(C)O | C2H6O
product | 5-(Methylthio)-imidazo[1,2-d]-as-triazine | CSC1=NN=CC=2N1C=CN2 | C6H6N4S
